US06762320B2
2-Amino-N-[4-(3-fluoro-benzyloxy)-phenyl]-acetamide;
A slurry of 0.166 g (0.44 mmol) of {[4-(3-fluoro-benzyloxy)-phenylcarbamoyl]-methyl}-carbamic acid tert-butyl ester in 1 ml diethyl ether is treated with 3 ml of a saturated solution of gaseous hydrochloric acid in diethyl ether. The mixture is refluxed for 4 h, poured on water and made basic by addition of a saturated sodium carbonate solution. Extraction with ethyl acetate yields a yellowish solid which is dissolved in about 1 ml of diethyl ether and treated with a few drops of a saturated solution of gaseous hydrochloric acid in diethyl ether. The precipitate is filtered to give 0.051 g (37%) of a colorless solid. MS: m/e=275.2 (M++H).

reactant | {[4-(3-fluoro-benzyloxy)-phenylcarbamoyl]-methyl}-carbamic acid tert-butyl ester | 0.44 mmol, 0.166 g | C(C)(C)(C)OC(NCC(NC1=CC=C(C=C1)OCC1=CC(=CC=C1)F)=O)=O | C20H23FN2O4
reactant | hydrochloric acid | Cl | ClH
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | diethyl ether | 1 ml | C(C)OCC | C4H10O
solvent | diethyl ether | about 1 ml | C(C)OCC | C4H10O
product | 2-Amino-N-[4-(3-fluoro-benzyloxy)-phenyl]-acetamide | 0.051 g, 37% | NCC(=O)NC1=CC=C(C=C1)OCC1=CC(=CC=C1)F | C15H15FN2O2
